US04853393
A mixture of 8.4 g of 2,6-dimethyl-4-(2,3-dichlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid methyl ester 2-chloroethyl ester and 8.8 g of 4-(p-fluorobenzoyl)-piperidine is stirred under argon for 1 hour at a temperature of 145°. After working up, the resulting residue is chromatographed over 500 g of silica gel, yielding 2,6-dimethyl-4-(2,3-dichlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid methyl ester 2-[4-(p-fluorobenzoyl)-piperidino]-ethyl ester in amorphous form which exhibits the following characteristic bands in th NMR spectrum: 1H-NMR (CDCl3): 2.3 and 2.4 [2S, 6H, 2 H3C--C (2 and 6)]; 3.6 [s, 3H, H3C--OOC]; 5.4 [s, 1H, H-c (4)], 7.1-8.1 (m, 7H, 7 arom. H). Rf value: 0.40 (hexane/ethyl acetate/methanol=4:2:1).

reactant | 2,6-dimethyl-4-(2,3-dichlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid methyl ester 2-chloroethyl ester | 8.4 g | ClCCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=C(C(=CC=C1)Cl)Cl | C18H18Cl3NO4
reactant | 4-(p-fluorobenzoyl)-piperidine | 8.8 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
product | 2,6-dimethyl-4-(2,3-dichlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid methyl ester 2-[4-(p-fluorobenzoyl)-piperidino]-ethyl ester | FC1=CC=C(C(=O)C2CCN(CC2)CCOC(=O)C=2C(C(=C(NC2C)C)C(=O)OC)C2=C(C(=CC=C2)Cl)Cl)C=C1 | C30H31Cl2FN2O5
